US06812226B2
(i) 5-Chloro-6-[4-(2-oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]pyridine-3-carboxylic acid
The title compound was prepared from 5,6-dichloronicotinic acid (2.2 g) and 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride (3.0 g) using the method of example 115 step (ii). Yield 0.037 g

reactant | 5,6-dichloronicotinic acid | 2.2 g | ClC=1C(=NC=C(C(=O)O)C1)Cl | C6H3Cl2NO2
reactant | 1-piperidin-4-yl-1,4-dihydro-2H-3,1-benzoxazin-2-one hydrochloride | 3.0 g | Cl.N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O
product | 5-Chloro-6-[4-(2-oxo-2H-3,1-benzoxazin-1(4H)-yl)piperidin-1-yl]pyridine-3-carboxylic acid | ClC=1C=C(C=NC1N1CCC(CC1)N1C(OCC2=C1C=CC=C2)=O)C(=O)O | C19H18ClN3O4
